US09102688B2
2,3-Dichloro-N-quinolin-8-yl-benzenesulfonamide (Example Compound 67)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.7 mmol), 2,3-dichlorobenzenesulfonyl chloride (190 mg, 0.8 mmol) and DMAP (cat.) gave the title compound (150 mg, 63%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.7 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2,3-dichlorobenzenesulfonyl chloride | 0.8 mmol, 190 mg | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,3-Dichloro-N-quinolin-8-yl-benzenesulfonamide | 150 mg, 63% | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C15H10Cl2N2O2S
